US07179918B2
(2S,3R)-3-tert-Butoxycarbonylamino-2-(2-chloro-acetoxy)-4-(3-fluoro-phenyl)-butyric acid methyl ester.
A solution of of the (2R,3R)-3-tert-butoxycarbonylamino-4-(3-fluoro-phenyl)-2-hydroxy-butyric acid methyl ester (8 g, 24.5 mmol, 1 eq), chloroacetic acid (5.79 g, 61.3 mmol, 2.5 eq), and PPh3 (16 g, 61.3 mmol, 2.5 eq) in benzene (340 mL) was cooled to 0 C followed by the addition of diethylazodicarboxylate (9.7 mL, 61.3 mmol, 2.5 eq) over a 20 min period. After the addition, the reaction mixture was stirred at ambient temperature for 2 h after which the reaction mixture was concentrated and the residue purified by column chromatography with 30% EtOAc/hexanes as eluant. Appropriate fractions were combined and concentrated to give a yellow solid which was shaken with heptane and filtered to remove the yellow DEAD residues. The product was thus obtained as a white solid (4.25 g, 43%) 1H NMR (CDCl3) 7.32 (m, 1H), 7.03–6.96 (m, 3H), 5.34 (d, J=3.5, 1H), 4.26 (s, 2H), 4.75–4.5 (series of m, 2H), 3.77 (s, 3H), 2.92 (bd, J=7, 2H), 1.43 (s, 9H).

reactant | (2R,3R)-3-tert-butoxycarbonylamino-4-(3-fluoro-phenyl)-2-hydroxy-butyric acid methyl ester | 24.5 mmol, 8 g, 1 eq | COC([C@@H]([C@@H](CC1=CC(=CC=C1)F)NC(=O)OC(C)(C)C)O)=O | C16H22FNO5
reactant | chloroacetic acid | 61.3 mmol, 5.79 g, 2.5 eq | ClCC(=O)O | C2H3ClO2
reactant | PPh3 | 61.3 mmol, 16 g, 2.5 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethylazodicarboxylate | 61.3 mmol, 9.7 mL, 2.5 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | benzene | 340 mL | C1=CC=CC=C1 | C6H6
solvent | heptane | CCCCCCC | C7H16
product | (2S,3R)-3-tert-Butoxycarbonylamino-2-(2-chloro-acetoxy)-4-(3-fluoro-phenyl)-butyric acid methyl ester | 4.25 g, 43% | COC([C@H]([C@@H](CC1=CC(=CC=C1)F)NC(=O)OC(C)(C)C)OC(CCl)=O)=O | C18H23ClFNO6
